US05589478
A mixture of 4-tert-butyl-N-{6-[2-(5-trimethylsilylethynylpyrimidin-2-yloxy)ethoxy]-5-(4-methylphenyl)pyrimidin-4-yl}benzenesulfonamide (667 mg), potassium carbonate (299 mg) and dry methanol (13 ml) is stirred at 0° C. for two hours, and diluted with saturated aqueous ammonium chloride solution, and extracted with ethyl acetate. The organic layer is washed with water and brine, dried over sodium sulfate, and filtered. The filtrate is concentrated under reduced pressure, and the residue is purified by silica gel column chromatography (solvent; chloroform/ethyl acetate=30:1) to give 4-tert-butyl-N-{6-[2-(5-ethynylpyrimidin-2-yloxy)ethoxy]-5-(4-methylphenyl)pyrimidin-4-yl}benzenesulfonamide (502 mg) as colorless crystalline powder.

reactant | 4-tert-butyl-N-{6-[2-(5-trimethylsilylethynylpyrimidin-2-yloxy)ethoxy]-5-(4-methylphenyl)pyrimidin-4-yl}benzenesulfonamide | 667 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=NC(=C1C1=CC=C(C=C1)C)OCCOC1=NC=C(C=N1)C#C[Si](C)(C)C | C32H37N5O4SSi
reactant | potassium carbonate | 299 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | 13 ml | CO | CH4O
solvent | ammonium chloride | [Cl-].[NH4+]
product | 4-tert-butyl-N-{6-[2-(5-ethynylpyrimidin-2-yloxy)ethoxy]-5-(4-methylphenyl)pyrimidin-4-yl}benzenesulfonamide | 502 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=NC(=C1C1=CC=C(C=C1)C)OCCOC1=NC=C(C=N1)C#C | C29H29N5O4S
